US04018799
To a solution of (±)-6-acetoxy-2-methoxy-2,5,7,8-tetramethylchroman in 2500 ml. of acetone was added 2000 ml. of H 2 O followed by 16.6 ml. of concentrated aqueous HCl. Solvent was distilled from the stirred mixture until the head temperature reached 90° centigrade. The suspension was cooled in an H 2 O bath to 50° centigrade. At 70° centigrade, 2000 ml. of acetone was added, giving a clear solution. The solution was seeded occasionally until crystallization began. After 3.5 hours, 1500 ml. of H 2 O was added and the suspension was cooled in an ice bath. The solid was removed by filtration, washed with H 2 O and dried at 50° centigrade/0.1mmHg. to give (±)-6-acetoxy-2-hydroxy-2,5,7,8-tetramethylchroman as a granular yellow-tan solid, sintering from 114 degrees centigrade, m.p. 127°-132° centigrade.

reactant | (±)-6-acetoxy-2-methoxy-2,5,7,8-tetramethylchroman | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)OC)C | C16H22O4
reactant | HCl | Cl | ClH
solvent | acetone | CC(=O)C | C3H6O
product | (±)-6-acetoxy-2-hydroxy-2,5,7,8-tetramethylchroman | C(C)(=O)OC=1C(=C2CCC(OC2=C(C1C)C)(C)O)C | C15H20O4
